US08957203B2
To a round-bottom flask equipped with a stir bar was added N-(tert-butyl)cyclopropanesulfonamide (10.0 g, 56.4 mmol) and THF (220 mL). The flask was placed under a nitrogen atmosphere and the solution was then cooled to −78° C. To the stirred solution was added dropwise over 10 minutes n-butyllithium (46.3 mL, 2.5M in hexanes). The resulting solution was stirred at −78° C. for 30 mins and then the cold bath was removed and the solution was allowed to warm to room temperature temperature with stirring for 30 mins. The solution was cooled to −78° C. To the solution was added N,N-dimethylformamide (13.1 mL, 169 mmol). The solution was allowed to slowly warm to room temperature with stirring for 17 h. The mixture was concentrated and the resulting yellow residue was dissolved in EtOAc (100 mL). The solution was transferred to a separatory funnel and was washed with aq. 1N HCl (150 mL). The aqueous phase was extracted with EtOAc (2×100 mL) and the combined organics were washed with sat. aq. NaCl (50 mL); dried over Na2SO4; and filtered. The filtrate concentrated in vacuo to afford a yellow viscous oil which solidified upon standing at room tempearture. This material was dissolved in EtOAc (10 mL); diluted with hexanes (50 mL); and the resulting solution was then stored at −78° C. for 2 h upon which crystals formed. The crystals were collected via filtration; were washed with cold hexanes; and residual solvent was removed in vacuo to afford N-(tert-butyl)-1-formylcyclopropane-1-sulfonamide as a colorless, crystalline solid (8.89 g, 77%). 1H NMR (500 MHz, CDCl3) δ 9.52 (s, 1H), 4.72 (br. s., 1H), 1.90-1.85 (m, 2H), 1.66-1.62 (m, 2H), 1.36 (s, 9H).

reactant | N-(tert-butyl)cyclopropanesulfonamide | 56.4 mmol, 10.0 g | C(C)(C)(C)NS(=O)(=O)C1CC1 | C7H15NO2S
reactant | THF | 220 mL | C1CCOC1 | C4H8O
reactant | n-butyllithium | 2.5M, 46.3 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 169 mmol, 13.1 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-(tert-butyl)-1-formylcyclopropane-1-sulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)C=O | C8H15NO3S
